US06306891B1
To a 100 mL round bottomed flask with a stirring bar and an argon inlet was added 1-(4-fluorobenzyl)-5-phenyl-1H-pyrrole-2-carboxylic acid methoxy-methylamide AV-7-1 (0.726 g, 2.16 mmol) and dry THF (20 mL). This solution was cooled to −78° C. and methyllithium (3.39 mL of a 1.4 M solution in Et2O, 4.75 mmol). The mixture was stirred 30 min at −78° C. then the reaction was quenched with saturated aqueous NH4Cl solution. The mixture was warmed to room temperature and stirred 2 h. The layers were separated and the aqueous phase was extracted with EtOAc. The combined organic fractions were dried (MgSO4), filtered and concentrated in vacuo. The crude product was chromatographed on silica gel using 15% EtOAc in hexanes as eluant to give 1-[1-(4-fluorobenzyl)-5-phenyl-1H-pyrrol-2-yl]ethanone AV-8-1 as an oil. 1H NMR (CDCl3) δ 2.42 (3H, s), 5.59 (2H, s), 6.29 (1H, d, j=4.2 Hz), 6.78 to 6.91 (4H, m), 7.12 (1H, d, j=4.2 Hz), 7.29 (2H, m), 7.38 (3H, m).

reactant | 1-(4-fluorobenzyl)-5-phenyl-1H-pyrrole-2-carboxylic acid methoxy-methylamide | 2.16 mmol, 0.726 g | CON(C(=O)C=1N(C(=CC1)C1=CC=CC=C1)CC1=CC=C(C=C1)F)C | C20H19FN2O2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | methyllithium | C[Li]
solvent | Et2O | CCOCC | C4H10O
product | 1-[1-(4-fluorobenzyl)-5-phenyl-1H-pyrrol-2-yl]ethanone | FC1=CC=C(CN2C(=CC=C2C2=CC=CC=C2)C(C)=O)C=C1 | C19H16FNO
